US04451475
Analogously to Example 4, 2.7 g of 3-(4-tert.-butylphenylthio)-oxazolidin-2-one were obtained as colourless crystals with a melting point of 76° to 81° C. from 4-tert.-butylphenylsulphenyl chloride and oxazolidin-2-one.

reactant | 4-tert.-butylphenylsulphenyl chloride | C(C)(C)(C)C1=CC=C(C=C1)SCl | C10H13ClS
reactant | oxazolidin-2-one | O1C(NCC1)=O | C3H5NO2
product | 3-(4-tert.-butylphenylthio)-oxazolidin-2-one | 2.7 g | C(C)(C)(C)C1=CC=C(C=C1)SN1C(OCC1)=O | C13H17NO2S
